US08124606B2
Compound 11: (S)-N-methyl-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide:
(S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one (1.500 g, 6.84 mmol), N-methyl-4-(piperazin-1-yl)benzamide (1.500 g, 6.84 mmol), (cyanomethyl)trimethylphosphonium iodide (2.494 g, 10.26 mmol) and N,N-diisopropylethylamine (5.97 ml, 34.2 mmol) were suspended in propiononitrile (Volume: 27.4 ml) and heated in a closed vial at 90° C. The crude reaction was cooled to RT, DMSO (1 ml) was added, and the mixture was purified via HPLC (55-90, basic) to give the product as a white solid.

reactant | (S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one | 6.84 mmol, 1.500 g | OCC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O | C11H13N3O2
reactant | N-methyl-4-(piperazin-1-yl)benzamide | 6.84 mmol, 1.500 g | CNC(C1=CC=C(C=C1)N1CCNCC1)=O | C12H17N3O
reactant | (cyanomethyl)trimethylphosphonium iodide | 10.26 mmol, 2.494 g | [I-].C(#N)C[P+](C)(C)C
reactant | N,N-diisopropylethylamine | 34.2 mmol, 5.97 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | propiononitrile | 27.4 ml | C(CC)#N | C3H5N
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | (S)-N-methyl-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide | CNC(C1=CC=C(C=C1)N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O)=O | C23H28N6O2
